*$
*//-----------------------------------------------------------------------//
*//   Part No.    : APXA100ARA331MJ80G
*//   Date        : 2020/12/24
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2020 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT APXA100ARA331MJ80G_20deg-C 1 2

C1 4 2 2.78e-04
C2 5 2 8.44e-05
C3 6 2 5.09e-06
R1 3 4 9.87e-03
R2 4 5 5.19e-02
R3 5 6 7.00e-02
L1 1 3 4.20e-09

.ENDS
